US06921821B2
6-Chloro-4-(1-naphthalen-2-ylmethyl-piperidin-4-ylamino)-1-pyridin-4-ylmethyl-1H-quinolin-2-one (V-5)
4-(6-Chloro-2-oxo-1-pyridin-4-ylmethyl-1,2-dihydroquinolin-4-ylamino)-piperidine-1-carboxylic acid t-butyl ester (0.58 g, 1.2 mmol) was dissolved in DCM (10 mL) and treated with trifluoroacetic acid (5 mL). The solution was stirred for 15 minutes before evaporating under reduced pressure. The crude amine was dissolved in acetonitrile (25 mL) prior to addition of sodium carbonate (1.22 g) and a drop of triethylamine. The mixture was stirred for 5 minutes before addition of 2-(bromomethyl)naphthalene (0.31 g, 1.4 mmol). After 2 hours the reaction was found to be complete by TLC analysis and the mixture was diluted with ethyl acetate, washed with 1N NaOH, and dried with sodium sulfate. Evaporation under reduced pressure gave the crude product which was purified by silica chromatography using DCM and methanol eluent to give the title compound (0.42 g). 1H NMR (300 MHz, CDCl3) δ ppm 2.04 (2H, m), 2.22 (2H, m), 2.67 (2H, m), 3.23 (2H, m), 3.67 (1H, m), 4.02 (2H, s), 5.20 (1H, m), 5.47 (2H, m), 5.82 (1H, s), 6.93 (1H, d, J=8.96 Hz), 7.05 (2H, m), 7.32 (1H, m), 7.46-7.52 (2H, m), 7.65 (1H, m), 7.72 (1H, m), 7.84 (3H, m), 7.91 (1H, m), 8.48 (2H, m).

reactant | 4-(6-Chloro-2-oxo-1-pyridin-4-ylmethyl-1,2-dihydroquinolin-4-ylamino)-piperidine-1-carboxylic acid t-butyl ester | 1.2 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(N(C2=CC=C(C=C12)Cl)CC1=CC=NC=C1)=O | C25H29ClN4O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(bromomethyl)naphthalene | 1.4 mmol, 0.31 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-4-(1-naphthalen-2-ylmethyl-piperidin-4-ylamino)-1-pyridin-4-ylmethyl-1H-quinolin-2-one | 0.42 g | ClC=1C=C2C(=CC(N(C2=CC1)CC1=CC=NC=C1)=O)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C31H29ClN4O
